US08304557B2
N-[5-({2-[(cyclopropylcarbonyl)amino][1,2,4]triazolo[1,5-a]pyridin-6-yl}oxy)-2-methylphenyl]-3-methoxy-1-methyl-1H-pyrazole-5-carboxamide
In the same manner as in Example 55 and using 3-methoxy-1-methyl-1H-pyrazole-5-carboxylic acid (62.5 mg, 0.400 mmol), tetrahydrofuran (5 mL), thionyl chloride (69.1 μL, 0.796 mmol), N,N-dimethylformamide (2 drops), N-[6-(3-amino-4-methylphenoxy)[1,2,4]triazolo[1,5-a]pyridin-2-yl]cyclopropanecarboxamide (117 mg, 0.362 mmol) and N,N-dimethylacetamide (6 mL) as starting materials, the title compound (137 mg, 82%) was obtained as a white solid.

reactant | 3-methoxy-1-methyl-1H-pyrazole-5-carboxylic acid | 0.400 mmol, 62.5 mg | COC1=NN(C(=C1)C(=O)O)C | C6H8N2O3
reactant | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
reactant | thionyl chloride | 0.796 mmol, 69.1 μL | S(=O)(Cl)Cl | Cl2OS
reactant | N-[6-(3-amino-4-methylphenoxy)[1,2,4]triazolo[1,5-a]pyridin-2-yl]cyclopropanecarboxamide | 0.362 mmol, 117 mg | NC=1C=C(OC=2C=CC=3N(C2)N=C(N3)NC(=O)C3CC3)C=CC1C | C17H17N5O2
catalyst | N,N-dimethylformamide | 2 drops | CN(C=O)C | C3H7NO
solvent | N,N-dimethylacetamide | 6 mL | CN(C(C)=O)C | C4H9NO
product | N-[5-({2-[(cyclopropylcarbonyl)amino][1,2,4]triazolo[1,5-a]pyridin-6-yl}oxy)-2-methylphenyl]-3-methoxy-1-methyl-1H-pyrazole-5-carboxamide | 137 mg, 82% | C1(CC1)C(=O)NC1=NN2C(C=CC(=C2)OC=2C=CC(=C(C2)NC(=O)C2=CC(=NN2C)OC)C)=N1 | C23H23N7O4
